US08980911B2
3,5-Dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzonitrile (Compound No. 95) was prepared using 1H-pyrrolo[3,2-c]pyridine and 2,6-dichloro-4-cyanobenzoic acid.

reactant | 1H-pyrrolo[3,2-c]pyridine | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | 2,6-dichloro-4-cyanobenzoic acid | ClC1=C(C(=O)O)C(=CC(=C1)C#N)Cl | C8H3Cl2NO2
product | 3,5-Dichloro-4-(1H-pyrrolo[3,2-c]pyridin-1-ylcarbonyl)benzonitrile | ClC=1C=C(C#N)C=C(C1C(=O)N1C=CC=2C=NC=CC21)Cl | C15H7Cl2N3O
